US07759376B2
Step 2. Preparation of 3′-fluoro-4′-[(6-fluoro-1,3-benzothiazol-2-yl)amino]-3-methylbiphenyl-4-carboxylic Acid
As shown in Reaction Scheme 6, methyl 3′-fluoro-4′-[(6-fluoro-1,3-benzothiazol-2-yl)amino]-3-methylbiphenyl-4-carboxylate (0.38 g, 0.67 mmol) was suspended in THF (5 mL), MeOH (5 mL), and water (2.5 mL), and NaOH (0.27 g, 6.7 mmol) was added. The reaction mixture was heated at 50° C. for 3 h. Upon cooling to rt, the reaction mixture was concentrated in vacuo, acidified with 2N HCl, and the resulting solid was collected by filtration. This yielded 0.33 g (quantitative) of the title compound. 1H NMR (400 MHz, DMSO-d6) 2.62 (s, 3H), 7.10 (t, 1H), 7.49-7.58 (m, 5H), 7.65-7.75 (m, 1H), 8.10 (d, 1H), 8.58 (t, 1H), 10.85 (br, 1H).

reactant | methyl 3′-fluoro-4′-[(6-fluoro-1,3-benzothiazol-2-yl)amino]-3-methylbiphenyl-4-carboxylate | 0.67 mmol, 0.38 g | FC=1C=C(C=CC1NC=1SC2=C(N1)C=CC(=C2)F)C2=CC(=C(C=C2)C(=O)OC)C | C22H16F2N2O2S
reactant | MeOH | 5 mL | CO | CH4O
reactant | water | 2.5 mL | O | H2O
reactant | NaOH | 6.7 mmol, 0.27 g | [OH-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3′-fluoro-4′-[(6-fluoro-1,3-benzothiazol-2-yl)amino]-3-methylbiphenyl-4-carboxylic Acid | FC=1C=C(C=CC1NC=1SC2=C(N1)C=CC(=C2)F)C2=CC(=C(C=C2)C(=O)O)C | C21H14F2N2O2S
